US04714778
Preparation of 3-(cyclopent-2-enyl)-2,6-toluenediamine
A 200 g (1.64 mol) portion of 2,6-toluenediamine, 162 g (1.23 mol, 2.45 equiv) of dicyclopentadiene, 200 g (2.78 mol) of pentane, and 20.0 g of a catalyst comprised of 13% alumina and 87% silica were charged to a stirred vessel and reacted at 205° C. in a similar fashion as indicated in Example 1. Isolation of a catalyst free sample by hot filtration followed by selective removal of all residual hydrocarbon by distillation afforded the following product mixture:

reactant | 2,6-toluenediamine | C=1(C(=CC=CC1N)N)C | C7H10N2
reactant | dicyclopentadiene | 1.23 mol, 162 g, 2.45 equiv | C1C=CC2C1C3CC2C=C3 | C10H12
reactant | pentane | 2.78 mol, 200 g | CCCCC | C5H12
product | 3-(cyclopent-2-enyl)-2,6-toluenediamine | C1(C=CCC1)C1=C(C(=C(C=C1)N)C)N | C12H16N2
